US04129576
Pyrogallol is reacted with chloroacetic acid in the presence of phosphorus oxychloride to form ω-chloro-2,3,4-trihydroxyacetophenone,

reactant | Pyrogallol | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
reactant | chloroacetic acid | ClCC(=O)O | C2H3ClO2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ω-chloro-2,3,4-trihydroxyacetophenone | C1=CC(=C(C(=C1C(=O)CCl)O)O)O | C8H7ClO4
